US07994196B2
4-[4-Chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid tert-butyl ester (2.8 g) was dissolved in methylene chloride (20 ml) and the mixture was cooled to −78° C. DEOXO-FLUOR (trademark) (APOLLO CO., 1.8 g) was added, and the mixture was stirred for 2 hr. Then, after stirring at room temperature for 2 hr, water was added, and the mixture was extracted three times with chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate(10:1-5:1)) to give a solid. 1,4-Dioxane (20 ml) and 10% aqueous sulfuric acid (5 ml) were added to the solid, and the mixture was stirred with heating at 70° C. for 1.5 hr. After completion of the reaction, the reaction system was basified (pH=9) with a 1N aqueous sodium hydroxide solution, and extracted three times with chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure to give 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-fluoropiperidine (655 mg, yield 31%).

reactant | 4-[4-Chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C17H21ClF3NO3
reactant | DEOXO-FLUOR | 1.8 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | 1,4-Dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-fluoropiperidine | 655 mg, yield 31% | ClC1=C(C=C(C=C1)C1(CCNCC1)F)C(F)(F)F | C12H12ClF4N
